US05055453
Benanomicin B hydrochloride (130 mg) was dissolved in 10 ml of water, followed by addition of 10 ml of concentrated hydrochloric acid. The resultant mixture was sealed in a glass tube. After effecting the hydrolysis reaction at 110° C. for 12 hours, the resultant precipitate was collected by filtration. The precipitate was extracted three times with 10 ml of dioxane, so that 47.5 mg of benanomicinone (aglycone of benanomicin B) was obtained. The residue which remained after the extraction was purified by a preparative silica gel thin layer chromatography (on silica gel "Art. 5744", trade name, product of Merck & Co., Inc.; as developed with a mixed solvent of butanol-acetic acid-pyridine=6:1:4), whereby Fraction 1 containing dexylosylbenanomicin B and Fraction 2 containing benanomicinone were obtained separately. Fraction 1 was adsorbed on 20 ml of an adsorbent "DIAION HP-20". After washing the adsorbent with water (60 ml), the adsorbent was eluted four times with 40 ml of methanol. The eluate was concentrated to dryness, the residue obtained was dissolved in 3 ml of water, and the resultant solution was adjusted to pH 2 with 0.1 N hydrochloric acid. When concentrating the solution to dryness, 17.8 mg of a purified dexylosylbenanomicin B hydrochloride was obtained. Similarly, Fraction 2 was purified chromatogrophically using the adsorbent "DIAION HP-20", when 9.5 mg of benanomicinone was recovered.

reactant | Benanomicin B hydrochloride | 130 mg | C[C@@H]1[C@@H]([C@@H]([C@H]([C@@H](O1)O[C@@H]2[C@H](C3=C(C4=C(C(=C(C=C24)C)C(=O)N[C@H](C)C(=O)O)O)C(=C5C(=C3)C(=O)C6=C(C=C(C=C6C5=O)OC)O)O)O)O)O[C@H]7[C@@H]([C@H]([C@@H](CO7)O)O)O)N.Cl
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
product | benanomicin B | C[C@@H]1[C@@H]([C@@H]([C@H]([C@@H](O1)O[C@@H]2[C@H](C3=C(C4=C(C(=C(C=C24)C)C(=O)NC(C)C(=O)O)O)C(=C5C(=C3)C(=O)C6=C(C=C(C=C6C5=O)OC)O)O)O)O)O[C@H]7[C@@H]([C@H]([C@@H](CO7)O)O)O)N | C39H42N2O18
